US04736066
(a) (±)-1-[N-[3-(Benzoylamino)-2-oxo-4-phenylbutyl]-N-[(phenylmethoxy)carbonyl]-L-alanyl]-L-proline, ethyl ester
(±)-1-[N-[3-(Benzoylamino)-2-oxo-4-phenylbutyl]-N-[(phenylmethoxy)carbonyl]-L-alanyl]-L-proline (1.17 g., 2 mmole), prepared as set forth in Example 109 (d), is taken into tetrahydrofuran (2 ml.) with stirring in an ice-bath. To this is added absolute ethanol (2.3 ml., 40 mmole) followed by 4-dimethylamino pyridine (122 mg., 1 mmole) and dicyclohexylcarbodiimide (412 mg., 2 mmole). The reaction is allowed to run overnight at room temperature. The dicyclohexylurea is filtered off, the filtrate is concentrated to dryness, the residue is taken into ethyl acetate and washed neutral with 10% potassium bisulfate and saturated sodium carbonate. The crude product (1.2 g.) is purified on silica gel column in benzene: acetic acid (8:2) to yield 1.0 g. of (±)-1-[N-[3-(benzoylamino)-2-oxo-4-phenylbutyl]-N-[(phenylmethoxy)carbonyl]-L-proline, ethyl ester.

reactant | (±)-1-[N-[3-(Benzoylamino)-2-oxo-4-phenylbutyl]-N-[(phenylmethoxy)carbonyl]-L-alanyl]-L-proline | 2 mmole, 1.17 g | C(C1=CC=CC=C1)(=O)NC(C(CN([C@@H](C)C(=O)N1[C@H](C(=O)O)CCC1)C(=O)OCC1=CC=CC=C1)=O)CC1=CC=CC=C1 | C33H35N3O7
reactant | ethanol | 40 mmole, 2.3 ml | C(C)O | C2H6O
reactant | dicyclohexylcarbodiimide | 2 mmole, 412 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
catalyst | 4-dimethylamino pyridine | 1 mmole, 122 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | (±)-1-[N-[3-(Benzoylamino)-2-oxo-4-phenylbutyl]-N-[(phenylmethoxy)carbonyl]-L-alanyl]-L-proline, ethyl ester | C(C1=CC=CC=C1)(=O)NC(C(CN([C@@H](C)C(=O)N1[C@H](C(=O)OCC)CCC1)C(=O)OCC1=CC=CC=C1)=O)CC1=CC=CC=C1 | C35H39N3O7
